US04885363
(D) 1-Benzyl-4,7,10-tris(p-toluenesulfonyl)-1,4,7,10-tetraazacyclododecane
Into a dry flask under nitrogen was placed about 3.9 g of a 60% sodium hydride dispersion. It was washed twice with hexanes then suspended in 200 ml of dry dimethylformamide. To the mixture was added 20 g (40 mmol) of 4-benzyl-1,7-bis-(p-toluenesulfonyl)-1, 4,7-triazaheptane over 5 minutes. After the initial reaction had subsided, the mixture was heated to 110° C. for 1 hour. To the resulting hot solution was added dropwise 22.6 g (40 mmol) of diethanolamine tritosylate in 100 ml of dry dimethylformamide over 3.5 hours. After an additional 0.5 hours, the solution was allowed to cool and 20 ml of methanol was added. The volatiles were then removed on the rotary evaporator. The residue was dissolved in a mixture of 400 ml of water and 200 ml of dichloromethane. The phases were separated and the aqueous phase washed twice more with dichloromethane. The combined organic fractions were dried (magnesium sulfate), filtered, and evaporated to give a yellow oil. Crystallization was induced by the addition of about 100 ml of methanol. The mixture was kept at -5° C. overnight and the product collected by filtration. After drying, 20.4 g of a colorless solid was obtained; melting point 208°-210° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-benzyl-1,7-bis-(p-toluenesulfonyl)-1, 4,7-triazaheptane | 40 mmol, 20 g | C(C1=CC=CC=C1)N(CCNS(=O)(=O)C1=CC=C(C=C1)C)CCNS(=O)(=O)C1=CC=C(C=C1)C | C25H31N3O4S2
reactant | diethanolamine tritosylate | 40 mmol, 22.6 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.S(=O)(=O)(O)C1=CC=C(C)C=C1.S(=O)(=O)(O)C1=CC=C(C)C=C1.N(CCO)CCO
reactant | methanol | 20 ml | CO | CH4O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-4,7,10-tris(p-toluenesulfonyl)-1,4,7,10-tetraazacyclododecane | 20.4 g | C(C1=CC=CC=C1)N1CCN(CCN(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C36H44N4O6S3
